US07538138B2
(2R)-1-[2-(5-bromo-1-benzofuran-2-yl)ethyl]-2-methylpyrrolidine
4-Bromo-2-iodophenol (2.99 g, 90% pure, 9 mmol), palladium (II) acetate (112 mg, 0.50 mmol), triphenylphosphine (262 mg, 1.0 mmol), copper(I) iodide (571 mg, 3.0 mmol), and diisopropylamine (14 mL, 100 mmol) were dissolved into a 0.09 M MeCN solution of (R)-1-but-3-ynyl-2-methylpyrrolidine (120 mL, 10.8 mmol) and stirred at room temperature three days, then at 80° C. overnight. The reaction mixture was cooled to room temperature, concentrated, and chromatographed through a short column of silica with 2:1 hexanes/CH2Cl2 followed by a 0 to 1% gradient of MeOH/CH2Cl2. The appropriate fractions were concentrated, and the residue extracted with MeOH. The extracts were concentrated and partitioned between CH2Cl2 and 1 M aqueous Na2CO3, worked up as usual, dried (Na2SO4), and concentrated to provide the title compound as a dark red syrup (26% yield).

reactant | 4-Bromo-2-iodophenol | 9 mmol, 2.99 g | BrC1=CC(=C(C=C1)O)I | C6H4BrIO
reactant | triphenylphosphine | 1.0 mmol, 262 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylamine | 100 mmol, 14 mL | C(C)(C)NC(C)C | C6H15N
reactant | (R)-1-but-3-ynyl-2-methylpyrrolidine | 10.8 mmol, 120 mL | C(CC#C)N1[C@@H](CCC1)C | C9H15N
catalyst | palladium (II) acetate | 0.50 mmol, 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | copper(I) iodide | 3.0 mmol, 571 mg | [Cu]I
solvent | MeCN | 0.09 M | CC#N | C2H3N
product | (2R)-1-[2-(5-bromo-1-benzofuran-2-yl)ethyl]-2-methylpyrrolidine | 26% yield | BrC=1C=CC2=C(C=C(O2)CCN2[C@@H](CCC2)C)C1 | C15H18BrNO
